US04681950
2.30 g (10 mmol) of 4,5-dichlorophthalic acid N-methylimide, 2.69 g (13 mmol) of disodium thiosalicylate and 12 ml of DMF are stirred at 80° C. for 18 hours. The mixture is taken up in dilute hydrochloric acid/THF/toluene. The organic phases are separated off and extracted with NaHCO3 solution. The basic aqueous extracts are acidified and extracted with THF/toluene. The extracts are dried and evaporated. The residue is subjected to fractional crystallisation from THF/toluene. 1.1 g (32% of theory) of crude 4-(2-carboxyphenylthio)-5-chlorophthalic acid N-methylimide are thus obtained. This is heated at 200° C. in 12 g of polyphosphoric acid for 10 minutes. The mixture is cooled, taken up in water and extracted with THF/toluene. The extracts are washed with NaHCO3 solution and saturated NaCl solution, dried over sodium sulfate and evaporated. After recrystallisation from THF/toluene, 580 mg (55% of theory) of 4-chlorothioxanthone-1,2-dicarboxylic acid N-methylimide are obtained; melting point: 258°-266° C.

reactant | 4,5-dichlorophthalic acid N-methylimide | 10 mmol, 2.30 g | CN=C(C=1C(C(=O)O)=CC(=C(C1)Cl)Cl)O | C9H7Cl2NO3
reactant | disodium thiosalicylate | 13 mmol, 2.69 g | C(C=1C(S)=CC=CC1)(=O)[O-].[Na+].[Na+].C(C=1C(S)=CC=CC1)(=O)[O-]
reactant | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | hydrochloric acid THF toluene | Cl.C1CCOC1.C1(=CC=CC=C1)C
product | 4-(2-carboxyphenylthio)-5-chlorophthalic acid N-methylimide | 1.1 g, 32% | CN=C(C=1C(C(=O)O)=CC(=C(C1)Cl)SC1=C(C=CC=C1)C(=O)O)O | C16H12ClNO5S
